US08791142B2
Step 1) tert-butyl N-(5-cyanopyridin-2-yl)-beta-alaninate
A solution of 6-chloronicotinonitrile (1.0 g, 7.2 mmol), beta-alanine tert-butyl ester hydrochloride (2.0 g, 11.0 mmol) and DIEA (4.9 mL, 28.9 mmol) in anhydrous dioxane (20 mL) was heated at reflux. After 24 hours, an additional amount of beta-alanine tert-butyl ester hydrochloride (0.5 g, 2.75 mmol) was added. After 24 additional hours at reflux, the reaction mixture was concentrated under reduced pressure. The residue was taken up with EtOAc (50 mL) and washed with water (2×20 mL) and brine (20 mL). The organic layer was dried (MgSO4) and the solvent was removed under reduced pressure. After precipitation from MTBE/pentane, the title compound was obtained as an off-white powder (1.28 g, 72%). HPLC (Method A), Rt: 2.7 min (purity: 99.9%). UPLC/MS, M+(ESI): 248.1, M−(ESI): 246.2. 1H NMR (DMSO-d6, 300 MHz) δ 8.40 (d, J=2.0 Hz, 1H), 7.67 (m, 2H), 6.56 (d, J=8.9 Hz, 1H), 3.50 (td, J=6.8, 6.0 Hz, 2H), 2.48 (t, J=6.8 Hz, 2H), 1.38 (s, 9H).

reactant | 6-chloronicotinonitrile | 7.2 mmol, 1.0 g | ClC1=NC=C(C#N)C=C1 | C6H3ClN2
reactant | beta-alanine tert-butyl ester hydrochloride | 11.0 mmol, 2.0 g | Cl.C(C)(C)(C)OC(CCN)=O
reactant | DIEA | 28.9 mmol, 4.9 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | beta-alanine tert-butyl ester hydrochloride | 2.75 mmol, 0.5 g | Cl.C(C)(C)(C)OC(CCN)=O
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | tert-butyl N-(5-cyanopyridin-2-yl)-beta-alaninate | C(#N)C=1C=CC(=NC1)NCCC(=O)OC(C)(C)C | C13H17N3O2
